US06846835B2
Synthesis of 1-(cycloheptylmethyl)piperidin-4-yl(2R)-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate
To a solution of 9.3 mg of piperidin-4-yl(2R)-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate in 1 ml of methanol, 10 mg of cycloheptanecarbaldehyde and then 0.5 ml of advancedly prepared 0.3 M methanol solution of sodium cyanoborohydride and zinc chloride (1:0.5) were added at room temperature, followed by 30 minutes' stirring at the same temperature. The reaction liquid was diluted with ethyl acetate, washed successively with saturated sodium hydrogenecarbonate solution and with saturated brine, and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, the residue was purified on preparative thin layer chromatography (Kieselgel™60F254, Art5744 (Merck), chloroform/methanol=10/1) to provide the title compound.

reactant | piperidin-4-yl(2R)-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate | 9.3 mg | FC1(C[C@@H](CC1)[C@](C(=O)OC1CCNCC1)(C1=CC=CC=C1)O)F | C18H23F2NO3
reactant | cycloheptanecarbaldehyde | 10 mg | C1(CCCCCC1)C=O | C8H14O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | methanol | 0.3 M | CO | CH4O
product | 1-(cycloheptylmethyl)piperidin-4-yl(2R)-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate | FC1(C[C@@H](CC1)[C@](C(=O)OC1CCN(CC1)CC1CCCCCC1)(C1=CC=CC=C1)O)F | C26H37F2NO3
